US07678801B2
N-cyclopentyl-3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzoic acid (30 mg, 0.06 mmol) in DMF (0.5 mL) were added HBTU (27 mg, 0.072 mmol), triethylamine (16.9 uL, 0.12 mmol) and cyclopentanamine (8.91 uL, 0.09 mmol). The mixture was stirred at rt overnight. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (6.0 mg, 17%).

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzoic acid | 0.06 mmol, 30 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=CC2)CC | C27H27F2N5O3
reactant | HBTU | 0.072 mmol, 27 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.12 mmol, 16.9 uL | C(C)N(CC)CC | C6H15N
reactant | cyclopentanamine | 0.09 mmol, 8.91 uL | C1(CCCC1)N | C5H11N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-cyclopentyl-3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzamide | 6.0 mg, 17% | C1(CCCC1)NC(C1=CC(=CC=C1)C=1C2=C(N=C(N1)NCCCN(CC)CC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)=O | C32H36F2N6O2
